Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ history of "chronic lymphedema" (per pt) p/w 
cellulitis of his LLE. Pt reports systemic symptoms of headache, 
myalgias and fever started 6 days prior to admission, and then 
he noticed some erythema and swelling of his left knee. He was 
seen by his PCP who felt that it was most likely viral as he did 
not have a leukocytosis at the time. He then noticed 3 days 
prior to admission that his left lower extremitiy was getting 
more painful and worsened when he hung it off the bed or put 
weight on it. He noticed increasing redness of the skin and 
warmth. He reports no documented fevers but was feeling "hot 
flashes". He went back to his PCP 1 day prior to admission and 
had an elevated WBC at 12.6 with a left shift (no bands) and he 
was started on po Bactrim (1DS BID). The next day he noticed 
worsening of the erythem and returned to the PCP, who was 
concerned for a DVT, had a negative D-Dimer and sent to the ED 
for a doppler and possible IV abx.  
In the ED, intial VS 98.2 89 123/96 16 99% RA, he had a negative 
___, and no note of ___ cyst. He was given 1g Vancomycin IV 
and 1g Cefazolin IV. He had blood cultures drawn and pending and 
labs which were signficant for wbc=11.9, and Cr=1.4.  
.  
On the floor, VSS and patient reported pain was a ___. He 
denied any fevers, chills, chest pains or palpitations. He 
denied any history of STDs, and no dysuria or penile discharge. 
He reported that prior to the onset of the cellulitis he noted a 
couple of cracks betwen his toes on that foot.  

 
Past Medical History:
Chronic Lymphedema  
Asthma  
cellulitis in ___ (on a leg)  

 
Social History:
___
Family History:
No cardiac disease. One GM with "cancer", and s/p liver 
transplant (don't know why) 
 
Physical Exam:
Physical Exam on Admission:  
Vitals: 99.1, 166/71, 91, 18, 98%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen:obese soft, non-tender, non-distended. + bowel sounds. 
no rebound or guarding.  
Ext: LLE with pen-marked border with erythema of varying shades 
within the border and warmth on palpation. No fluctuance, no 
visible skin breaks or pustules, nonpitting edema, tender to 
palpation. No erythema or warmth outside of the marked area. 
Pain on palpation of the left ankle joint. No fluid wave noted 
in the joint. ___ strenght in the pedal flexor and plantar 
bilaterally. Left knee with no erythema or fluid wave. 2+DP 
pulses bilaterally.  
Neuro: CN II-XII intact. Strength ___ throughout. motor function 
grossly normal  

Physical Exam on Discharge:
Vitals: 98.0, 118/72, 78, 18, 99%RA
General: Alert, oriented, no acute distress  
Lungs: CTAB
CV: RRR, no MRG 
Abdomen:obese soft, NTND. + bowel sounds. no rebound or 
guarding.  
Ext: LLE with pen-marked border with very mild erythema of the 
most anteior portion of the leg, no longer erythematous around 
the lateral aspect.  No edema, minimal tenderness to palpation, 
mild warmth. Full ROM of ankle and knee joints of the left leg. 
2+DP pulses bilaterally.  
 
Pertinent Results:
Admission Labs:
___ 07:23PM BLOOD WBC-11.9* RBC-5.30 Hgb-15.8 Hct-44.3 
MCV-84 MCH-29.8 MCHC-35.6* RDW-12.1 Plt ___
___ 07:23PM BLOOD Neuts-69.1 ___ Monos-8.1 Eos-0.6 
Baso-0.4
___ 07:23PM BLOOD Glucose-90 UreaN-14 Creat-1.4* Na-138 
K-4.2 Cl-98 HCO3-29 AnGap-15

Discharge Labs:
___ 06:15AM BLOOD WBC-7.7 RBC-4.97 Hgb-15.3 Hct-42.2 MCV-85 
MCH-30.8 MCHC-36.3* RDW-12.1 Plt ___
___ 06:15AM BLOOD Glucose-87 UreaN-13 Creat-1.3* Na-139 
K-4.6 Cl-101 HCO3-29 AnGap-14

___ Unilateral Lower Extremity Veins Doppler
Imaging:
CLINICAL INFORMATION: Right lower extremity swelling, rule out 
DVT. 
  
COMPARISON: None. 
  
TECHNIQUE AND FINDINGS: There is normal respirophasic waveform 
in the 
bilateral common femoral veins. There is normal compressibility, 
response to augmentation, and color Doppler flow within the 
right common femoral, 
superficial femoral, and popliteal veins. Normal flow is seen 
within the 
posterior tibial and peroneal veins of the calf. 
  
IMPRESSION: No evidence of left lower extremity DVT. 

 
Brief Hospital Course:
___ yo M w/ PMH of chronic lymphedema of the legs bilaterally 
(unknown cause) with presents with cellulitis of the left leg.

#Cellulitis- patient was treated with IV Vanc and Cefazolin x 1 
in the ED with improvement in the erythema. He had no signs of 
any deep tissue involvement and was switched to 2 DS Bactrim BID 
and keflex ___ po q6h. He tolerated this regimen for a day 
prior to discharge and had decreased erythema, edema, warmth and 
pain of the left lower leg and was afebrile. He reported being 
able to bear more weight at the time of discharge. He had blood 
cultures pending at the time of discharge.  There was concern 
that the unilateral swelling could be due to a DVT but U/S was 
negative for clot.  
.
#CKD- patient has an elevated Cr of 1.3 at baseline which was 
stable throughout his hospital course. His BP was stable and 
normotensive and nothing was done to work-up this elevated Cr, 
would recommend continuing to monitor for signs of worsening 
renal function.

Transitional Issues:
Pending labs: Blood cultures from ___
Medications started: Please take antibiotics as prescribed 
through ___
1. Bactrim 2 DS tablets twice a day by mouth (antibiotic)
2. Keflex ___ tablet 1 tablet by mouth every 6 hours 
(antibiotic
Medications stopped: none
Follow-up- you have a follow-up appointment scheduled with your 
PCP ___ ___, please keep this appointment so that they can 
determine if you will need longer antibiotics. Call your PCP if 
you develop worsening of the redness, pain or high fevers 
(___).
-continue to monitor renal function as an outpatient
 
Medications on Admission:
Bactrim 1 DS BID
 
Discharge Medications:
1. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 7 days.
Disp:*28 Capsule(s)* Refills:*0*
2. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: Two (2) 
Tablet PO BID (2 times a day) for 7 days.
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you while you were here at ___.

You were admitted to the hospital for concern that your 
cellulitis on your left lower leg was worsening despite 
outpatient treatment. You received IV antibiotics and we watched 
the progression of the infection which was improving and 
switched you to oral antibiotics for a day prior to your 
discharge.You remained without fevers during your admission and 
showed no signs of worsening or spreading infection. There was 
concern that some of the pain in your leg may have been because 
of a blood clot but an ultrasound of your leg showed no signs of 
blood clot. 
One of your lab values, that measures your kidney function was a 
little higher than we would expect for someone your age, however 
this is similar to what it has been on testing over the past few 
years.  This is something that your primary care doctor ___ 
continue to follow.

Transitional Issues:
Pending labs:  Blood cultures from ___
Medications started: Please take antibiotics as prescribed 
through ___
1. Bactrim 2 DS tablets twice a day by mouth (antibiotic)
2. Keflex ___ tablet 1 tablet by mouth every 6 hours 
(antibiotic
Medications stopped: none
Follow-up- you have a follow-up appointment scheduled with your 
PCP, please keep this appointment so that they can determine if 
you will need longer antibiotics. Call your PCP if you develop 
worsening of the redness, pain or high fevers (___).
 
Followup Instructions:
___